US06900222B1
A mixture of ethyl 3-methoxy-4-oxo-1-piperidinecarboxylate (0.248 mol) and N,N-bis(phenylmethyl)-1,3-propanediamine (0.248 mol) in methanol (600 ml) was hydrogenated at 50° C. with platinum on activated carbon (5%, 5 g) as a catalyst in the presence of thiophene (4%, 5 ml). After uptake of hydrogen (1 equivalent), the catalyst was filtered off and the filtrate was evaporated, yielding 109.8 g of (±)-ethyl 4-[[3-[bis-(phenylmethyl)amino]propyl]amino]-3-methoxy-1-piperidinecarboxylate (interm. 1).

reactant | ethyl 3-methoxy-4-oxo-1-piperidinecarboxylate | 0.248 mol | COC1CN(CCC1=O)C(=O)OCC | C9H15NO4
reactant | N,N-bis(phenylmethyl)-1,3-propanediamine | 0.248 mol | C1(=CC=CC=C1)CN(CCCN)CC1=CC=CC=C1 | C17H22N2
reactant | thiophene | 5 ml | S1C=CC=C1 | C4H4S
reactant | hydrogen | 1 equivalent | [H][H] | H2
solvent | methanol | 600 ml | CO | CH4O
catalyst | platinum on activated carbon | 5 g | [Pt] | Pt
product | (±)-ethyl 4-[[3-[bis-(phenylmethyl)amino]propyl]amino]-3-methoxy-1-piperidinecarboxylate | 109.8 g | C1(=CC=CC=C1)CN(CCCNC1C(CN(CC1)C(=O)OCC)OC)CC1=CC=CC=C1 | C26H37N3O3
